US06750231B2
1-(3-Hydroxy-3-phenylpropyl)-3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine (Preparation 44, 50 mg, 0.20 mmol) in N,N-dimethylformamide (6 mL) was added commercially available 3-chloro-1-phenyl-1-propanol (33 mg, 0.21 mmol), sodium iodide (15 mg) and aqueous sodium hydrogencarbonate (25 mg, 0.29 mmol). The resultant mixture was heated to 80° C. and stirred overnight. The reaction mixture was cooled, poured onto saturated aqueous sodium hydrogencarbonate solution (100 mL) and extracted with ethyl acetate (3×20 mL). The combined extracts were dried over MgSO4, filtered and concentrated in vacuo to give an off-white gum. The crude product was purified by column chromatography on a 5 g silica Waters Sep-Pak3 eluting with dichloromethane and then dichloromethane:methanol (5:95) to give the title compound as a clear oil (19 mg, 25%).

reactant | 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 0.20 mmol, 50 mg | CC1CNCCC1(C1=CC(=CC=C1)C=1N=NNC1)C | C15H20N4
reactant | 3-chloro-1-phenyl-1-propanol | 0.21 mmol, 33 mg | ClCCC(O)C1=CC=CC=C1 | C9H11ClO
reactant | sodium iodide | 15 mg | [I-].[Na+]
reactant | sodium hydrogencarbonate | 0.29 mmol, 25 mg | C(O)([O-])=O.[Na+]
reactant | sodium hydrogencarbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-(3-Hydroxy-3-phenylpropyl)-3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 19 mg, 25% | OC(CCN1CC(C(CC1)(C1=CC(=CC=C1)C=1N=NNC1)C)C)C1=CC=CC=C1 | C24H30N4O
